** sch_path: /home/pc/heichips25-ethernet/xschem/Vth_test.sch
**.subckt Vth_test
XM3 Vds Vgs GND GND sg13_lv_nmos w=0.13u l=0.13u ng=1 m=1
Vgs Vgs GND 1.5
Vds Vds GND 1.5
**** begin user architecture code


.param temp=27
.control
save all
save @n.xm3.nsg13_lv_nmos[ids]
dc Vgs 0 1.5 0.1
plot v(Vgs) v(Vds)
plot @n.xm3.nsg13_lv_nmos[ids]
.endc


 .lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
