** sch_path: /home/pc/heichips25-ethernet/xschem/lvds_full_test.sch
**.subckt lvds_full_test
XM1 dp dp_in vds_bot vds_bot sg13_lv_nmos w=40u l=1u ng=4 m=1
XM2 dn dn_in vds_bot vds_bot sg13_lv_nmos w=40u l=1u ng=4 m=1
XM5 dp dp_in vpwr vpwr sg13_lv_pmos w=40u l=1u ng=4 m=1
XM6 dn dn_in vpwr vpwr sg13_lv_pmos w=40u l=1u ng=4 m=1
XM3 vds_bot vgs_ref GND GND sg13_lv_nmos w=50u l=1u ng=5 m=1
XM4 vgs_ref vgs_ref GND GND sg13_lv_nmos w=10u l=4u ng=1 m=1
V1 vpwr GND 1.5
Vdat_p dp_in GND dc 0 ac 0 pulse(0, 1.5, 0, 100p, 100p, 50n, 100n)
Vdat_n dn_in GND dc 0 ac 0 pulse(1.5, 0, 0, 100p, 100p, 50n, 100n)
R1 dn dp 100 m=1
XM7 vpwr vpwr vgs_ref vgs_ref sg13_lv_nmos w=10u l=10u ng=1 m=1
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.param temp=27
.control
save all
tran 5n 500n
plot V(vgs_ref) V(vds_bot) V(dp) V(dn)
plot @n.xm3.nsg13_lv_nmos[ids]
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
